US08445684B2
3-[4-[2-(Benzyloxy)ethyl]-1-piperidinyl]-5-[[-1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine
To a mixture of 3-bromo-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine (72 mg, 0.20 mmol) and 4-[2-(benzyloxy)ethyl]piperidine (44 mg, 0.20 mmol) in anhydrous toluene (2.0 mL) were added successively sodium tert-butoxide (29 mg, 0.30 mmol, 1.5 equiv.), tris(dibenzylideneacetone)dipalladium(0) (3.7 mg, 4.0 μmol, 0.02 equiv.), and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos; 6.9 mg, 12 μmol, 0.06 equiv.). The mixture was degassed and purged with Ar (3 cycles), then warmed to 98-100° C. for 4 h. After cooling to room temperature, the mixture was diluted with EtOAc and washed with brine. The solution was dried over Na2SO4 and evaporated, and the residue was purified by CC (SiO2, CH2Cl2/EtOAc 4:1 followed by CH2Cl2/MeOH 10:1) to recover first unreacted 3-bromo-5-[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine (14 mg) and subsequently 3-[4-[2-(benzyloxy)ethyl]-1-piperidinyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine (67 mg, 85%) as a pale yellow oil. 1H NMR (CDCl3, 400 MHz) δ 7.91-7.78 (m, 2H), 7.37-7.21 (m, 5H), 6.86-6.68 (m, 1H), 4.51 (s, 2H), 4.15 (m, 2H), 3.93-3.82 (m, 1H), 3.67 (m, 2H), 3.54 (t, 2H, J=6.0 Hz), 3.41 (m, 2H), 2.74 (m, 2H), 2.02-1.83 (m, 4H), 1.80-1.62 (m, 2H), 1.61-1.58 (m, 3H), 1.47 (s, 9H), 1.38-1.26 (m, 2H).

reactant | 3-bromo-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine | 0.20 mmol, 72 mg | BrC=1C=NC=C(C1)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C15H21BrN2O3
reactant | 4-[2-(benzyloxy)ethyl]piperidine | 0.20 mmol, 44 mg | C(C1=CC=CC=C1)OCCC1CCNCC1 | C14H21NO
reactant | sodium tert-butoxide | 0.30 mmol, 29 mg, 1.5 equiv. | CC(C)([O-])C.[Na+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 12 μmol, 6.9 mg, 0.06 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 4.0 μmol, 3.7 mg, 0.02 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-[4-[2-(Benzyloxy)ethyl]-1-piperidinyl]-5-[[-1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine | C(C1=CC=CC=C1)OCCC1CCN(CC1)C=1C=NC=C(C1)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C29H41N3O4
